US03968116
5-(Trifluoromethyl)-3-nitro-2-aminopyridine is reacted with perfluorobutyryl chloride to yield 5-(trifluoromethyl)-3-nitro-2-(2,2,3,3,4,4,4-heptafluorobutyramido)pyridine, which when hydrogenated yields 6-(trifluoromethyl)-1-hydroxy-2-(perfluoro-n-propyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-(Trifluoromethyl)-3-nitro-2-aminopyridine | FC(C=1C=C(C(=NC1)N)[N+](=O)[O-])(F)F | C6H4F3N3O2
reactant | perfluorobutyryl chloride | FC(C(=O)Cl)(C(C(F)(F)F)(F)F)F | C4ClF7O
product | 5-(trifluoromethyl)-3-nitro-2-(2,2,3,3,4,4,4-heptafluorobutyramido)pyridine | FC(C=1C=C(C(=NC1)NC(C(C(C(F)(F)F)(F)F)(F)F)=O)[N+](=O)[O-])(F)F | C10H3F10N3O3
